US09227985B2
N-[(5-Nitro-3-pyridin-2-yl-3,4-dihydro-2H-1,4-benzoxazin-3-yl)methyl]acetamide (0.040 g. 0.122 mmol) was dissolved in ethanol (5 mL) in a Parr bottle and degassed with nitrogen, followed by addition of palladium (10% on carbon) (10 mg, 0.09 mmol) catalyst. The reaction vessel was charged to 50 PSI with hydrogen, and shaken for 2 h. The mixture was then filtered and concentrated to give crude N-[(5-amino-3-pyridin-2-yl-3,4-dihydro-2H-1,4-benzoxazin-3-yl)methyl]acetamide (0.040 g, 80%). LCMS calculated for C16H19N4O2 (M+H)+: m/z=299.1. found: 299.0.

reactant | N-[(5-Nitro-3-pyridin-2-yl-3,4-dihydro-2H-1,4-benzoxazin-3-yl)methyl]acetamide | 0.122 mmol, 0.040 g | [N+](=O)([O-])C1=CC=CC2=C1NC(CO2)(C2=NC=CC=C2)CNC(C)=O | C16H16N4O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | palladium | 0.09 mmol, 10 mg | [Pd] | Pd
product | N-[(5-amino-3-pyridin-2-yl-3,4-dihydro-2H-1,4-benzoxazin-3-yl)methyl]acetamide | 0.040 g, 80% | NC1=CC=CC2=C1NC(CO2)(C2=NC=CC=C2)CNC(C)=O | C16H18N4O2
